US04595683
Benzylsulfamoyl chloride
A stirred mixture of benzylsulfamic acid (73 g), PCl5 (81 g) in toluene (540 ml) is heated to 40°-50° C. for one hour and refluxed for about 3 hours. The cooled mixture is filtered through Celite and the filtrate concentrated in vacuo to remove the toluene affording the desired product as a liquid.

reactant | benzylsulfamic acid | 73 g | C(C1=CC=CC=C1)NS(O)(=O)=O | C7H9NO3S
reactant | PCl5 | 81 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 540 ml | C1(=CC=CC=C1)C | C7H8
product | Benzylsulfamoyl chloride | C(C1=CC=CC=C1)NS(=O)(=O)Cl | C7H8ClNO2S
